US08664216B2
To a solution of 1′-benzyl-6-fluoro-3H-spiro[2-benzofuran-1,4′-piperidine] (1 g, 3.4 mmol) in ethanol (10 ml) was added Pd/C 10% (100 mg, 0.09 mmol). The mixture was refluxed under an hydrogen atmosphere for 8 hours then cooled to room temperature and purged with argon. The catalyst was filtered and the filtrate was concentrated in vacuo to yield 0.67 g (96%) 6-fluoro-3H-spiro[2-benzofuran-1,4′-piperidine] as a white solid. MS m/e: 208 (M+H+).

reactant | 1′-benzyl-6-fluoro-3H-spiro[2-benzofuran-1,4′-piperidine] | 3.4 mmol, 1 g | C(C1=CC=CC=C1)N1CCC2(CC1)OCC1=C2C=C(C=C1)F | C19H20FNO
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.09 mmol, 100 mg | [Pd] | Pd
product | 6-fluoro-3H-spiro[2-benzofuran-1,4′-piperidine] | 0.67 g, 96% | FC=1C=CC2=C(C1)C1(CCNCC1)OC2 | C12H14FNO
